US05656607
Stage A: 2-(2-(3-imidazolyl)-ethyl)-1,3-dioxolane
2.25 and 4.35: CH2 's of the ethyl; 3.85 to 4.00: CH2 's of the dioxolane; 4.87: CH dioxolane; 7.29-7.45-7.81: 4H benzimidazole; 7.92: H in position 2 of the imidazole.

reactant | dioxolane | O1COCC1 | C3H6O2
reactant | benzimidazole | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | 2-(2-(3-imidazolyl)-ethyl)-1,3-dioxolane | N1=CN(C=C1)CCC1OCCO1 | C8H12N2O2
